US08461107B2
Intermediate A5: Trans-2-pent-4-en-1 ylcyclopentanol
A solution of 5-bromopent-1-ene (11.81 mL, 100 mmol) in Et2O (100 mL) was added to magnesium (2.43 g, 100 mmol) over 20 minutes. The resulting suspension was heated under reflux for 40 minutes, then cooled to 20° C., taken up in a syringe, and added dropwise at −5° C. to a stirred suspension of CuI (3.17 g, 16.6 mmol) in THF (160 mL). The resulting solution was stirred for 30 minutes at −5° C., then cooled to −20° C. Cyclopentene oxide (7.21 mL, 83 mmol) was added dropwise, and the resulting mixture was warmed to 20° C. over 2 hours, then stirred for 48 hours. The reaction was quenched by addition of NH4Cl(aq.); then the layers were separated, and the aqueous layer was extracted with Et2O. The combined organic phases were washed with H2O and brine, then dried over Na2SO4. Filtration and removal of the volatiles gave a residue that was purified by column chromatography on SiO2 (gradient elution, 1-100% EtOAc/petroleum ether) to afford the title compound (7.92 g, 62%) as a liquid. 1H NMR (400 MHz, CDCl3) δ 5.88-5.76 (m, 1H), 5.01 (d, J=17.2 Hz, 1H), 4.95 (d, J=10.6 Hz, 1H), 3.83 (br s, 1H), 2.12-2.00 (m, 2H), 1.99-1.84 (m, 2H), 1.76-1.30 (m, 7H), 1.24-1.11 (m, 2H).

reactant | 5-bromopent-1-ene | 100 mmol, 11.81 mL | BrCCCC=C | C5H9Br
reactant | magnesium | 100 mmol, 2.43 g | [Mg] | Mg
reactant | Cyclopentene oxide | 83 mmol, 7.21 mL | C12C(CCC1)O2 | C5H8O
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | THF | 160 mL | C1CCOC1 | C4H8O
catalyst | CuI | 16.6 mmol, 3.17 g | [Cu]I
product | Trans-2-pent-4-en-1 ylcyclopentanol | 7.92 g, 62% | C(CCC=C)[C@H]1[C@@H](CCC1)O | C10H18O
